US04549988
1-[4-Chloro-2-benzoylphenyl]-3-phthalimidopropane
A mixture of 2 g (5 mmole) of 1-[4-chloro-2-benzoylphenyl]-3-phthalimidopropyne and 1/2 teaspoonful of Raney nickel in 25 ml of tetrahydrofuran was hydrogenated at room temperature and atmospheric pressure. When 240 ml of hydrogen was absorbed, the catalyst was separated by filtration and the filtrate concentrated at reduced pressure to dryness. The residue was crystallized from a mixture of ether and petroleum to give crude product as a tan solid, mp 94°-97° C. Recrystallization from ether gave pale yellow prisms, mp 98°-99° C.

reactant | 1-[4-chloro-2-benzoylphenyl]-3-phthalimidopropyne | 5 mmole, 2 g | ClC1=CC(=C(C=C1)C#CCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=CC=CC=C2)=O | C24H14ClNO3
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-[4-Chloro-2-benzoylphenyl]-3-phthalimidopropane | ClC1=CC(=C(C=C1)CCCN1C(C=2C(C1=O)=CC=CC2)=O)C(C2=CC=CC=C2)=O | C24H18ClNO3
